US08975265B2
Step 1: 2-(2-{2-[4-(1-Amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyrimidin-7-yloxy}-ethyl)-isoindole-1,3-dione
[1-(4-{7-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethoxy]-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl}-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester (530 mg) was dissolved in methanol/DCM (1.3 mL/2.1 mL), treated with HCl in dioxane (4.08 mL of a 4M solution) and the mixture stirred overnight at rt. The reaction mixture was poured onto ice, made alkaline with 2N aqueous sodium hydroxide and extracted with EtOAc. The combined organic phases were washed with saturated aqueous sodium chloride, dried and concentrated in vacuo to give the crude title product as a yellow oil. Purification was achieved by trituration at 0° C. with diisopropyl ether. The resulting precipitate was filtered and dried to give the title compound as a solid (390 mg).

reactant | [1-(4-{7-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-ethoxy]-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl}-phenyl)-cyclobutyl]-carbamic acid tert-butyl ester | 530 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=N2)OCCN2C(C3=CC=CC=C3C2=O)=O)C1C1=CC=CC=C1)=O | C37H35N5O5
reactant | HCl | Cl | ClH
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol DCM | 1.3 mL | CO.C(Cl)Cl
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(2-{2-[4-(1-Amino-cyclobutyl)-phenyl]-3-phenyl-imidazo[1,2-a]pyrimidin-7-yloxy}-ethyl)-isoindole-1,3-dione | 390 mg | NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=N2)OCCN2C(C3=CC=CC=C3C2=O)=O)C1C1=CC=CC=C1 | C32H27N5O3
